US05750526
6.66 g of 6-trifluoromethyl-quinoline-3-phosphonic acid diethyl ester is dissolved in 70 ml of glacial acetic acid and hydrogenated on platinum dioxide at room temperature under normal pressure. After column chromatography, 3.52 g of 6-trifluoromethyl-1,2,3,4-tetrahydroquinoline-3-phosphonic acid diethyl ester of melting point 112° C. is obtained.

reactant | 6-trifluoromethyl-quinoline-3-phosphonic acid diethyl ester | 6.66 g | C(C)OP(OCC)(=O)C=1C=NC2=CC=C(C=C2C1)C(F)(F)F | C14H15F3NO3P
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 6-trifluoromethyl-1,2,3,4-tetrahydroquinoline-3-phosphonic acid diethyl ester | 3.52 g | C(C)OP(OCC)(=O)C1CNC2=CC=C(C=C2C1)C(F)(F)F | C14H19F3NO3P
